US04931581
Preparation of 7-(2-trimethylsilylethoxycarbonyl)-benzo-1,2,3-thiadiazole
1.99 g (0.01 mol) of 7-benzothiadiazolecarboxylic acid chloride in 18 ml of toluene are added dropwise over a period of 25 minutes to a solution of 1.9 ml (0.013 mol) of 2-trimethylsilylethanol, 2.4 ml (0.017 mol) of triethylamine and 18 ml of toluene. The reaction mixture is then stirred for 16 hours at room temperature and afterwards poured onto ice/water and extracted twice with ethyl acetate. The extracts are combined, washed with water, dried over magnesium sulfate, filtered and concentrated and the same amount of hexane is added and the batch is filtered through silica gel. Concentration gives 2.0 g (71% of the theoretical yield) of product; m.p. 37°-39° C.

reactant | 7-benzothiadiazolecarboxylic acid chloride | 0.01 mol, 1.99 g | S1N=NC2=C1C(=CC=C2)C(=O)Cl | C7H3ClN2OS
reactant | 2-trimethylsilylethanol | 0.013 mol, 1.9 ml | C[Si](CCO)(C)C | C5H14OSi
reactant | triethylamine | 0.017 mol, 2.4 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 18 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 18 ml | C1(=CC=CC=C1)C | C7H8
product | 7-(2-trimethylsilylethoxycarbonyl)-benzo-1,2,3-thiadiazole | C[Si](CCOC(=O)C1=CC=CC=2N=NSC21)(C)C | C12H16N2O2SSi
